US20010027196A1
5-Bromo-4-ethylsulfanyl-6-furan-2-yl-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, ethanethiol and DBU in dioxane. EI-MS m/e (%): 301 (M{81Br}+, 28), 299 (M{79Br}+, 27), 220 ([M—Br]+, 100), 160 (30), 118 (24).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | ethanethiol | C(C)S | C2H6S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-ethylsulfanyl-6-furan-2-yl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1C=1OC=CC1)N)SCC | C10H10BrN3OS
